US08227431B2
Preparation of 9-((3R,5R)-3-fluoro-4-hydroxy-5-(hydroxymethyl)-3,4-dimethyl-tetrahydrofuran-2-yl)-1H-purin-6(9H)-one
To a solution of ((2R,4R)-3-acetoxy-4-fluoro-3,4-dimethyl-5-(6-oxo-1H-purin-9(6H)-yl)tetrahydrofuran-2-yl)methyl benzoate (about 0.30 g, 0.67 mmol) in methanolic ammonia (25% w/w, 10 ml) was stirred at room temperature for overnight. Completion of the reaction monitored by thin-layer chromatography, methanol was removed under reduced pressure, water added to the crude and extracted with ethyl acetate. The organic layer was dried over sodium sulphate, concentrated under reduced pressure and purified by silica gel column chromatography using 5% methanol in dichloromethane to elude title compound (0.07 g) as a colorless solid. Yield: 35%; 1H NMR (300 MHz, CD3OD): δ 8.14 (d, 1H, J=3.6 Hz), 8.06 (s, 1H), 6.41 (d, 1H, J=21.9 Hz), 4.43-4.40 (m, 1H), 3.88-3.83 (m, 2H), 1.38-1.28 (m, 6H); Mass: [M+1]+ 299 (100%), [M+Na]+321 (30%); HPLC: 95.2%.

reactant | ((2R,4R)-3-acetoxy-4-fluoro-3,4-dimethyl-5-(6-oxo-1H-purin-9(6H)-yl)tetrahydrofuran-2-yl)methyl benzoate | 0.67 mmol, about 0.30 g | C(C1=CC=CC=C1)(=O)OC[C@H]1OC([C@](C1(C)OC(C)=O)(C)F)N1C=2N=CNC(C2N=C1)=O | C21H21FN4O6
reactant | methanol | CO | CH4O
solvent | ammonia | 10 ml | N | H3N
product | 9-((3R,5R)-3-fluoro-4-hydroxy-5-(hydroxymethyl)-3,4-dimethyl-tetrahydrofuran-2-yl)-1H-purin-6(9H)-one | Yield: 35% | F[C@]1(C(O[C@@H](C1(C)O)CO)N1C=2N=CNC(C2N=C1)=O)C | C12H15FN4O4
